US05747614
Aluminum trichloride in an amount of 30.7 g (250 mmol) was suspended in 150 mL of dried carbon disulfide (dried and distilled on calcium hydride) and was brought to an ice-cooling temperature. Then, 25.1 g (212 mmol) of tigloyl chloride was mixed with 16.6 g (212 mmol) of benzene, and to the resultant mixture was added dropwise the above-produced carbon disulfide solution, followed by continuous stirring at room temperature. As the result, a yellow solution was gradually produced. The solution was allowed to stand overnight, with the result that the solution was separated into two phases including a brown phase and a colorless phase. The solution was allowed to react for another 5 hours under refluxing. The resultant reaction mixture was brought back to room temperature and thereafter, was poured onto the mixture of 250 g of water and 250 mL of concentrated hydrochloric acid, followed by stirring for about one hour. Then, the resultant product was subjected to extraction and separation four times repeatedly with 200 mL each of ether. The ether phases thus produced were combined together, and dried with calcium chloride anhydride as the drying agent. After filtering away the used drying agent, the ether was distilled away and the brown viscous oil was obtained. Because of its being readily soluble in hexane, the oil was again dissolved in hexane, and the resultant solution was washed twice with 150 mL each of saturated aqueous solution of sodium carbonate and twice with 150 mL each of saturated aqueous solution of sodium chloride, and dried with magnesium sulfate anhydride. By distilling away the hexane, there was obtained 19.9 g of 2,3-dimethylindane-1-one.

reactant | Aluminum trichloride | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | tigloyl chloride | 212 mmol, 25.1 g | C(\C(\C)=C\C)(=O)Cl | C5H7ClO
reactant | benzene | 212 mmol, 16.6 g | C1=CC=CC=C1 | C6H6
reactant | hydrochloric acid | 250 mL | Cl | ClH
solvent | carbon disulfide | 150 mL | C(=S)=S | CS2
solvent | hexane | CCCCCC | C6H14
solvent | water | 250 g | O | H2O
product | 2,3-dimethylindane-1-one | 19.9 g | CC1C(C2=CC=CC=C2C1C)=O | C11H12O
